US05994344
3-(4-Methyl-piperazin-1-yl)-propane-1-sulfonic acid
N-methyl piperizine (4.68 g) was dissolved in isopropanol (25 ml) and treated with 1,3-propanesultone (5.7 g) with cooling to maintain the temperature of the reaction below 50° C. The reaction mixture was allowed to stand at room temperature overnight, then diluted with ether and the white solid filtered. On standing, the white solid became a sticky semi-solid (7.1 g).

reactant | N-methyl piperizine | 4.68 g | CN1CCNCC1 | C5H12N2
reactant | 1,3-propanesultone | 5.7 g | C1COS(=O)(=O)C1 | C3H6O3S
solvent | isopropanol | 25 ml | C(C)(C)O | C3H8O
solvent | ether | CCOCC | C4H10O
product | 3-(4-Methyl-piperazin-1-yl)-propane-1-sulfonic acid | CN1CCN(CC1)CCCS(=O)(=O)O | C8H18N2O3S
